Name:  ___                 Unit No:   ___
 
Admission Date:  ___              Discharge Date:   ___
 
Date of Birth:  ___             Sex:   M
 
Service: MEDICINE
 
Allergies: 
Compazine / Seroquel / Haldol / fentanyl
 
Attending: ___.
 
Chief Complaint:
Sickle cell crisis
 
Major Surgical or Invasive Procedure:
None
 
History of Present Illness:
Patient is a ___ male with a history of sickle cell
disease,  w/ bilateral AVN, asplenia, and
prior acute chest syndrome, who presents this evening from
outside hospital with concern for acute chest syndrome versus
pain crisis. Patient reports that the prior he had started to
experience worsening chest pain, pain in his joints. Does report
some associated nausea and vomiting with this. He states this
feels like prior episode of acute chest syndrome. He reports a
fever of ___ yesterday. +25 lb weight loss. He denies chills,
cough, abdominal pain, headache, neck pain, confusion, dysuria,
hematuria, blood in his stool. His tender inguinal 
lympadenopathy
continues. He has noticed initial burning with urination. He was
seen at outside hospital given IV pain medication however was
sent here for concern of acute chest syndrome versus pain 
crisis.
Per ED CXR at ___. Author unable to access images. Pain
takes his breath away and is worse with respiration. 
L eye blurry vision -chronic but nothing acute. His mother
currently has shingles. No rashes or changes in his skin. +
pruritis from dilaudid. 
.

In ER: (Triage Vitals:10 98.9 94 102/62 18 96% 4L   ) 
Meds Given: 
IV HYDROmorphone (Dilaudid) .5 mg 
IV Ketorolac 30 mg 
IV DiphenhydrAMINE 25 mg 
IV Promethazine 6.25 mg 
IV HYDROmorphone (Dilaudid) .5 mg 
IVF 1000 mL NS  IV HYDROmorphone (Dilaudid) .5 mg 
IV HYDROmorphone (Dilaudid) 1 mg ___ 
.
Fluids given: Radiology Studies: none 
consults called: none
.

PAIN SCALE: ___ chest/back/b/l flank and hips. 

________________________________________________________________
REVIEW OF SYSTEMS: SKIN:           [] All Normal
[ ] Rash        [ +] Pruritus- secondary to dilaudid

ALLERGY:
[ +]Medication allergies:
Compazine 
fentanyl 
Haldol 
Seroquel 
  [ ] Seasonal allergies

[X]all other systems negative except as noted above 
 
Past Medical History:
Sickle Cell
-prior acute chest syndrome requiring intubation, age ___
-prior exchange transfusions. 
-On exjade (deferasirox) for iron overload secondary to 
transfusions
-bilateral AVN of femoral head, first noted at age ___, requiring 
surgery with b/l core decompression at age ___ (___)
-?stroke- left-sided infarcts noted on head imaging 
(asymptomatic) around age ___
-functionally asplenic, uptodate on vaccines
-___ crises per year, worse in the ___
-Port A Cath placement x 4 given inability to achieve IV access  

-Appendectomy  
-Cholecystectomy
 
Social History:
___
Family History:
Sickle cell trait in family. Grandmother with breast cancer.

 
Physical Exam:
ADMISSION
1. VS  T = 98.5 P 88 BP 111/53 RR 22 O2Sat on  _96% on RA 
GENERAL:  Thin male moving in bed. He looks very uncomfortable. 
Nourishment: at risk  
Grooming: good  
Mentation: alert, speaking in full sentences  
2. Eyes: [] WNL 
PERRL, EOMI without nystagmus, Conjunctiva: + injection b/l 
3. ENT [] WNL
[X] Moist  [] Endentulous  [] Ulcers  [] Erythema  [] JVD ____ 
cm
[] Dry  [] Poor dentition  [] Thrush  [] Swelling  [] Exudate
4. Cardiovascular [X] WNL
[X] Regular  [] Tachy  [X] S1 [X] S2 [-] Systolic Murmur     /6,
Location:
[X] Edema RLE  None 
[X] Edema LLE None 
[] Vascular access  [X] Peripheral [] Central site:
5. Respiratory [X ]WNL
[X] CTA bilaterally  [ ] Rales  [ ] Diminshed
[] Comfortable     [ ] Rhonchi   [ ] Dullness
[ ] Percussion WNL  [ ] Wheeze   [] Egophony
6. Gastrointestinal [ ] WNL
+ RUQ pain but rest of abdomen NT
[X] Soft, scaphoid 
[] Non distended  [] distended  [] bowel sounds Yes/No  [] 
guiac:
positive/negative
7. Musculoskeletal-Extremities [] WNL
[ ] Tone WNL  [ X]Upper extremity strength ___ and symmetrical  
[
]Other:
[ ] Bulk WNL    [X] Lower extremity strength ___ and symmetrica 
[
] Other:
8. Neurological [X] WNL
[X ] Alert and Oriented x 3 [ ] Romberg: Positive/Negative  [ ]
CN II-XII intact  [X] Normal attention  [ ] FNF/HTS WNL []
Sensation WNL  [ ] Delirious/confused  [ ] Asterixis
Present/Absent  [ ] Position sense WNL
[ ] Demented  [ ] No pronator drift  [] Fluent speech
9. Integument  [] WNL
+ tatooes
[X] Warm  [X] Dry  [] Cyanotic [] Rash: 
10. Psychiatric [] WNL
[X] Appropriate [] Flat affect [] Anxious [] Manic [] 
Intoxicated
[] Pleasant [] Depressed [] Agitated [] Psychotic 
[] Combative
11. Hematologic/Lymphatic  [ ]WNL
[] No cervical ___ [] No axillary ___  [] No supraclavicular ___
[+] tender inguinal ___ [] Thyroid WNL [] Other:

DISCHARGE
VS: 97.9 108/63 58 24 96%facemask
Gen: supine in bed
Eyes - EOMI, anicteric
ENT - OP clear, MMM
Heart - RRR no mrg
Lungs - no wheezes/rales/ronchi
Abd - soft nontender, normoactive bowel sounds
Musculoskeletal / Ext - no edema; tender to palpation over
sternum, ribs bilaterally, L scapula and thoracic spine,
unchanged from day prior
Skin - no rashes
Vasc - 2+ DP/radial pulses
Neuro - moving all extremities
Psych - guarded
 
Pertinent Results:
ADMISSION
___ 11:55PM BLOOD WBC-20.4*# RBC-2.58* Hgb-8.3* Hct-22.8* 
MCV-89 MCH-32.3* MCHC-36.5* RDW-20.7* Plt ___
___ 11:55PM BLOOD Ret Man-13.9*
___ 11:55PM BLOOD Glucose-108* UreaN-7 Creat-0.6 Na-136 
K-3.7 Cl-100 HCO3-23 AnGap-17
___ 11:55PM BLOOD ALT-38 AST-60* LD(___)-610* AlkPhos-111 
TotBili-2.7* DirBili-0.7* IndBili-2.0

DISCHARGE
___ 05:14AM BLOOD WBC-9.7 RBC-3.26* Hgb-9.5* Hct-27.3* 
MCV-84 MCH-29.3 MCHC-34.9 RDW-18.7* Plt ___
___ 05:14AM BLOOD Ret Aut-4.7*
___ 05:14AM BLOOD Glucose-125* UreaN-8 Creat-0.4* Na-139 
K-3.9 Cl-105 HCO3-24 AnGap-14
___ 05:14AM BLOOD LD(___)-435* TotBili-2.0* DirBili-0.6* 
IndBili-1.4

CT Chest ___ 
Radiographic differentiation of infection from acute chest 
syndrome it is 
problematic, but the findings suggest possible right lower lobe 
viral 
pneumonia and acute chest syndrome predominantly in the left 
lower. 
Although cardiomegaly, particularly in the left atrium and 
ventricle has 
increased, t the here is no pulmonary edema. . 

 
Brief Hospital Course:
Course Summary
This is a ___ year old male with a past medical history of sickle 
cell anemia, chronic pain on high dose oral opiates admitted 
___ with chest pain and back pain consistent with prior 
pain crises, treated conservatively with IV fluids, pain 
control, incentive spirometry, oxygen, as well as empiric 
antibiotics and pRBC transfusion in setting of initial concern 
for acute chest syndrome, who rapidly improved with respect to 
pain and hypoxia on the day of discharge, requested discharge 
home with prescriptions to deal with a family illness, 
discharged with planned outpatient follow-up.

# Sickle Cell Pain Crisis - patient was admitted with acute on 
chronic chest and back pain, worsening over the course of 
several days; labs were notable for an elevated reticulocyte 
count (peaked at 13.9) and elevated indirect bilirubin.  He was 
started on IV fluids, oxygen, prn IV pain control per pain plan 
described in detail in prior notes, but summarized here "IV 
dilaudid 4mg Q4H:PRN pain, IV tylenol 
___ TID standing, hot packs to apply to affected joints. If 
persistent pain, can add on 3 day course of IV ketorolac 30mg q8 
standing. If patient still in pain, can increase interval of IV 
dilaudid to Q3, and would not further escalate opioid regimen. 
Once patient tolerating food, should be transitioned back to 
equivalent doses of oral oxycodone, and can taper down daily to 
home regimen. Do NOT offer ketamine drip (possible cause of 
previous bradycardia during a prior admission)."  Patient was 
seen by hematology consult and there was much discussion and 
uncertainty regarding presence/absence of Acute Chest Syndrome 
in setting of hypoxia.  He underwent a CT chest that showed 
possible acute chest, which prompted antibiotics and transfusion 
of a total of 4 units pRBCs.  Symptoms subsequently improved and 
no exchange transfusion was pursued.  On day of discharge, he 
went from being inactive 
due to reported pain and use of a facemask for comfortable 
breathing (per nursing report he would refuse to take it off for 
vitals), to announcing he would stop supplemental oxygen and IV 
pain medications and go home due to family illness.  He did not 
desaturate and ambulated comfortably down the hallway with use 
of crutches (his reported baseline).  He completed his 5 day 
course of empiric antibiotics prior to discharge.  Per 
discussion with his PCP and pain team, patient discharged with 7 
day supply of home pain  medication (OxycoDONE 30mg PO Q5-6H:PRN 
pain #42), with long-term plan for weaning pain medications.  
Continued home hydroxyurea although he frequently refused during 
the admission.  Restarted home folate, exjade at discharge

# Difficult behavior - patient frequently requested uptitration 
of his pain regimen, despite knowledge of prior harm from it 
(bradycardia secondary to ketamine); he also refused lovenox 
despite knowledge of risk of VTE.  He also demonstrated rapid 
recovery from reporting multiple symptoms on the morning of his 
day of discharge.  He required close coordination of his care to 
ensure all providers/consultants were working together and had a 
uniform plan.  

# Constipation - continued home Colace, and per patient's 
specific request, provided with a prescription for prn bisacodyl 
at discharge

# Chronic Nausea - continued home promethazine

# Anxiety - did not provide prescription for alprazolam at 
discharge 

 
Medications on Admission:
The Preadmission Medication list is accurate and complete.
1. OxycoDONE (Immediate Release)  30 mg PO Q5-6H:PRN  pain 
2. Docusate Sodium 100 mg PO BID 
3. FoLIC Acid 5 mg PO DAILY 
4. Hydroxyurea 1500 mg PO DAILY 
5. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
6. Exjade (deferasirox) ___ mg oral DAILY 
7. Promethazine 25 mg PO Q6H:PRN nausea 
8. HYDROmorphone (Dilaudid) 8 mg PO Q5-6H:PRN pain 

 
Discharge Medications:
1. Hydroxyurea 1500 mg PO DAILY 
2. ALPRAZolam 0.5 mg PO TID:PRN anxiety 
3. Docusate Sodium 100 mg PO BID 
4. Exjade (deferasirox) ___ mg oral DAILY 
5. FoLIC Acid 5 mg PO DAILY 
6. Promethazine 25 mg PO Q6H:PRN nausea 
7. OxycoDONE (Immediate Release)  30 mg PO Q5-6H:PRN  pain 
RX *oxycodone 30 mg 1 tablet(s) by mouth every ___ hours Disp 
#*42 Tablet Refills:*0
8. Bisacodyl 10 mg PR QHS:PRN constipation 
RX *bisacodyl 10 mg 1 suppository(s) rectally at bedtime Disp 
#*8 Suppository Refills:*0

 
Discharge Disposition:
Home
 
Discharge Diagnosis:
Sickle Cell Anemia and Pain Crisis

 
Discharge Condition:
Mental Status: Clear and coherent.
Level of Consciousness: Alert and interactive.
Activity Status: Ambulatory - requires assistance or aid (walker 
or cane).

 
Discharge Instructions:
Mr. ___:

It was a pleasure caring for you at ___.  You were admitted 
with chest and back pain.  You were treated for a sickle cell 
pain crisis with fluids, pain medications, oxygen, antibiotics 
and a blood transfusion.  You improved and are now ready for 
discharge.

After discussion with you primary care physician and pain team, 
we can prescribe you a week's worth of pain medication for home
 
Followup Instructions:
___